US04668682
To a mixed solution of acetone (300 ml) and a 6% aqueous potassium carbonate solution (200 ml) there were added 10.2 g (67 mmol) of methyl ester of anthranilic acid. 12.5 g (67 mmol) of 2-Methoxyphenylacetic acid chloride were added dropwise under cooling thereto and the resulting reaction mixture was stirred at room temperature for 4 hours. The resulting precipitates were collected by filtration to obtain 15.7 g (yield 78%) of N-(2-methoxyphenylacetyl)-anthranilic acid methyl ester.

reactant | potassium carbonate | 200 ml | C([O-])([O-])=O.[K+].[K+]
reactant | anthranilic acid | C(C=1C(N)=CC=CC1)(=O)O | C7H7NO2
reactant | 2-Methoxyphenylacetic acid chloride | 67 mmol, 12.5 g | COC1=C(C=CC=C1)CC(=O)Cl | C9H9ClO2
solvent | acetone | 300 ml | CC(=O)C | C3H6O
product | N-(2-methoxyphenylacetyl)-anthranilic acid methyl ester | 15.7 g, yield 78% | COC(C=1C(NC(CC2=C(C=CC=C2)OC)=O)=CC=CC1)=O | C17H17NO4
